US05958918
A. 7-Methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-benzylamide
The title compound is prepared as in EXAMPLE 126, Part A using 7-methoxynaphthalene-2-sulfonic acid[1-(5-cyanothiophen-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide, prepared as in EXAMPLE 148, Part A, in place of 7-methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide and benzyl bromide for methyl iodide.

reactant | 7-methoxynaphthalene-2-sulfonic acid[1-(5-cyanothiophen-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=CC=C(S1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C21H19N3O4S2
reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C21H19N3O4S2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl iodide | CI | CH3I
product | 7-Methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-benzylamide | C(#N)C1=CC=C(S1)CN1C([C@H](CC1)N(S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)CC1=CC=CC=C1)=O | C28H25N3O4S2
